US07205325B2
MS: M=178.2 (API+). 1H-NMR(400 MHz, D6-DMSO): δ=3.79(s, 1H, OCH3), 6.46(d, 1H, 2-H), 6.97(d, 2H, 3′-/5′-H), 6.99(br, 1H, NH), 7.36(d, 1H, 3-H), 7.44(br, 1H, NH), 7.50(d, 2H, 2′-/6′-H). 48.0 g (271 mmol) 3-(4-Methoxyphenyl)-acrylamide, 44.4 g (350 mmol) dichloro acetone and 400 ml toluene were kept at reflux temperature for 24 h with continuous removal of water by applying a Dean-Stark trap. After removal of solvents in vacuo, the residue was intensively shaken with 600 ml water, the precipitate isolated by filtration, washed with water and heptane. Drying at 40° C. in vacuo gave 56.9 g (84%) 4-Chloromethyl-2-[2-(4-methoxyphenyl)-vinyl]-oxazole.

reactant | 3-(4-Methoxyphenyl)-acrylamide | 271 mmol, 48.0 g | COC1=CC=C(C=C1)C=CC(=O)N | C10H11NO2
reactant | dichloro acetone | 350 mmol, 44.4 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(4-methoxyphenyl)-vinyl]-oxazole | 56.9 g, 84% | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC | C13H12ClNO2
